US09315503B2
(1R,4S)-4-Amino-1,2,3,4-tetrahydro-naphthalen-1-ol
Ethyl trifluoroacetate (24.2 mL, 204 mmol) was added dropwise to a solution of (S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine (Alfa Aesar; 25.0 g, 170 mmol) and triethylamine (35.5 mL, 255 mmol) in MeOH (250 mL) at RT and stirred for 18 h. The mixture was concentrated to approximately ⅓ of its volume and then partitioned between DCM (200 mL) and water (200 mL). The aqueous layer was extracted into DCM (3×) and the combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo to yield the title compound (41.1 g, 169 mmol, 99%). 1H NMR (400 MHz, CDCl3): 1.80-1.95 (3H, m), 2.05-2.15 (1H, m), 2.75-2.90 (2H, m), 5.18-5.25 (1H, q, J 5.0 Hz), 6.38-6.48 (1H, br s), 7.12-7.16 (1H, m), 7.20-7.26 (3H, m).

reactant | Ethyl trifluoroacetate | 204 mmol, 24.2 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | (S)-(1,2,3,4-tetrahydro-naphthalen-1-yl)amine | 170 mmol, 25.0 g | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | triethylamine | 255 mmol, 35.5 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 250 mL | CO | CH4O
product | (1R,4S)-4-Amino-1,2,3,4-tetrahydro-naphthalen-1-ol | 169 mmol, 41.1 g, 99% | N[C@H]1CC[C@H](C2=CC=CC=C12)O | C10H13NO
